US05746997
4-Tri-n-butylstannylbenzoic acid
To a solution of methyl 4-tri-n-butylstannylbenzoate (3.0 g, 7 mmol) in absolute ethanol (60 ml) was added 0.25 g KOH (9 mmol). The resulting solution was refluxed for 2 hours. The solution was cooled and poured into an ice-cold solution of acetic acid (0.64 g, 10.6 mmol) and water (100 ml). The solution was then extracted with diethyl ether (80 ml). The ether phase was washed with water (30 ml), dried over MgSO4 (5 g), filtered and evaporated under reduced pressure to afford 2.6 g (88%) of the title compound. This material was used without further purification.

reactant | methyl 4-tri-n-butylstannylbenzoate | 7 mmol, 3.0 g | C(CCC)[Sn](C1=CC=C(C(=O)OC)C=C1)(CCCC)CCCC
reactant | KOH | 9 mmol, 0.25 g | [OH-].[K+]
reactant | acetic acid | 10.6 mmol, 0.64 g | C(C)(=O)O | C2H4O2
reactant | water | 100 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-Tri-n-butylstannylbenzoic acid | 2.6 g, 88% | C(CCC)[Sn](C1=CC=C(C(=O)O)C=C1)(CCCC)CCCC | InChI=1S/C7H5O2.3C4H9.Sn/c8-7(9)6-4-2-1-3-5-6;3*1-3-4-2;/h2-5H,(H,8,9);3*1,3-4H2,2H3;
